US04221814
The procedure of EXample 10 was repeated for reacting 2-(4-ethoxycarbonylbenzamido)-4-aminobenzoic acid with propionic anhydride, and the reaction product was treated as in Example 10 except that acetonitrile was used as a solvent for recrystallization. The product obtained was a 60% yield of 2-(4-ethoxycarbonylbenzamido)-4-propionamidobenzoic acid having a melting point in the range of from 240° to 243° C.

reactant | 2-(4-ethoxycarbonylbenzamido)-4-aminobenzoic acid | C(C)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=C1 | C17H16N2O5
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-ethoxycarbonylbenzamido)-4-propionamidobenzoic acid | 60% yield | C(C)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(CC)=O)C=C1 | C20H20N2O6
